US09359364B2
The 2-((3,5-dibromopyrazin-2-yl)amino)acetic acid and ethylamine (4 equiv, 70 wt % solution) were combined in water and the mixture was stirred at 90° C. The reaction mixture was cooled to 80° C. and treated with phosphoric acid (4 equiv), and the mixture was cooled to room temperature and the solids were collected by filtration. The product was dried to obtain 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one as a solid. MS (ESI) m/z 256.9

reactant | 2-((3,5-dibromopyrazin-2-yl)amino)acetic acid | BrC=1C(=NC=C(N1)Br)NCC(=O)O | C6H5Br2N3O2
reactant | ethylamine | 4 equiv | C(C)N | C2H7N
reactant | phosphoric acid | 4 equiv | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
product | 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | BrC1=CN=C2C(=N1)N(C(CN2)=O)CC | C8H9BrN4O
